US07544215B2
Step 2: Preparation of 4-{(E)-[(1,3-diketo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl) imino]methyl}-1(2-hydroxyethyl)pyridinium bromide
2.34 g (18.75 mmol) of bromoethanol was added dropwise to a solution of 1.13 g (3.75 mmol) of 6-{[(E)-4-pyridinylmethylidene]amino}-1H-benzo[de]isoquinolin-1,3(2H)-dione in 60 mL of acetonitrile or acetone and the solution was then heated at reflux for 1 hour. After concentration to about ⅓ of the amount of solvent and cooling to room temperature, the resulting precipitate was suction-filtered off, washed with ethyl acetate and dried under vacuum. Yield: 0.59 g (37% of the theoretical), dark-yellow powder. 1H-NMR (d6-DMSO/300 MHz): δ=3.58 (t, J=13.5 Hz, 2H, ethyl); 4.01 (t, J=13.5 Hz, 2H, ethyl); 6.45 (s, 1H); 7.54-7.58 (m, 2H, aromatic); 7.19 (d, J=5.8 Hz, 2H, pyridyl); 8.40 (m, 1H, aromatic); 8.63 (d, J=5.8 Hz, 2H, pyridyl); 8.72-8.75 (m, 2H, aromatic); 11.39 (s, 1H, N—H).

reactant | bromoethanol | 18.75 mmol, 2.34 g | BrC(C)O | C2H5BrO
reactant | 6-{[(E)-4-pyridinylmethylidene]amino}-1H-benzo[de]isoquinolin-1,3(2H)-dione | 3.75 mmol, 1.13 g | N1=CC=C(C=C1)\C=N\C=1C=CC=2C(NC(C3=CC=CC1C23)=O)=O | C18H11N3O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetone | CC(=O)C | C3H6O
product | 4-{(E)-[(1,3-diketo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl) imino]methyl}-1(2-hydroxyethyl)pyridinium bromide | [Br-].O=C1NC(C2=C3C(C=CC=C13)=C(C=C2)\N=C\C2=CC=[N+](C=C2)CCO)=O | InChI=1S/C20H15N3O3.BrH/c24-11-10-23-8-6-13(7-9-23)12-21-17-5-4-16-18-14(17)2-1-3-15(18)19(25)22-20(16)26;/h1-9,12,24H,10-11H2;1H/b21-12+;
